US07384934B2
(S)-2-(4-Methoxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester
Into a room temperature, stirred solution of (S)-2-(4-hydroxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (0.344 g, 0.95 mmol), and MeI (0.179 mL, 2.87 mmol) in DMF (5 mL) add NaH (0.042 g, 1.05 mmol, 20% in mineral oil). Stir overnight. Dilute the mixture with 75% brine (50 mL) and extract with EtOAc (3×100 mL). Concentrate the organic layers under reduced pressure, dilute with EtOAc (40 mL) and wash with 75% brine (5×25 mL). Dry the organic layer over Na2SO4, and filter. Concentrate the mixture under reduced pressure and purify by silica gel chromatography eluting with 20% to 98% EtOAc in hexanes. Combine the purified fractions, concentrate under reduced pressure and place under vacuum to give the title compound: yellow tar (0.209 g), mass spectrum (m/e):373.13 (M+H).

reactant | (S)-2-(4-hydroxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.95 mmol, 0.344 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCCO | C18H34N2O5
reactant | MeI | 2.87 mmol, 0.179 mL | CI | CH3I
reactant | NaH | 1.05 mmol, 0.042 g | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | (S)-2-(4-Methoxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCCOC | C19H36N2O5
